US07799796B2
To a 0° C. solution of 5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine (1.0 g, 2.5 mmoles) in dichloromethane (80 ml) and pyridine (3 ml), was slowly added valeryl chloride (2.4 ml, 20.2 mmoles). The mixture was stirred at room temperature for 60 hours, and then solvent was removed under reduced pressure. The residue was washed twice with water and then dissolved in dichloromethane. This organic phase was dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was passed through a silica gel plug (40% ethyl acetate in hexane). The crude mixture was dissolved in a mixture of concentrated ammonium hydroxide aqueous solution and methanol (3 ml/27 ml) and stirred at room temperature for 15 minutes. Solvent was removed under reduced pressure, and the residue was purified by silica gel chromatography (20%, 35% ethyl acetate in hexane), to give crude pentanoic acid [5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-2-pentanoylamino-pyrimidin-4-yl]-amide was obtained, which was crystallized from ether and hexane to give pure pentanoic acid [5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-2-pentanoylamino-pyrimidin-4-yl]-amide (141 mg) as white solid, MS (M+H)=569. The filtrate from the recrystallization was dried and re-dissolved in a mixture of concentrated ammonium hydroxide aqueous solution and methanol (10 ml/40 ml) and stirred at room temperature for 5 hours. This solution was concentrated under reduced pressure, and the residue was partitioned between dichloromethane and water. The organic phase was washed with brine, dried over anhydrous sodium sulfate, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography (30% ethyl acetate in hexanes), and recrystallized from ethyl acetate and hexane to give pure pentanoic acid [4-amino-5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidin-2-yl]-amide (395 mg) as white solid, MS (M+H)=485.

reactant | 5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-pyrimidine-2,4-diamine | 2.5 mmoles, 1.0 g | IC=1C(=CC(=C(OC=2C(=NC(=NC2)N)N)C1)C(C)C)OC | C14H17IN4O2
reactant | valeryl chloride | 20.2 mmoles, 2.4 ml | C(CCCC)(=O)Cl | C5H9ClO
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | pyridine | 3 ml | N1=CC=CC=C1 | C5H5N
product | pentanoic acid [5-(5-iodo-2-isopropyl-4-methoxy-phenoxy)-2-pentanoylamino-pyrimidin-4-yl]-amide | 141 mg | IC=1C(=CC(=C(OC=2C(=NC(=NC2)NC(CCCC)=O)NC(CCCC)=O)C1)C(C)C)OC | C24H33IN4O4
